US04368161
AlCl3.6H2O:
Into 1000 ml of water is dispersed 40 g of iron oxide red. 7.79 g Of Rondis R and 1.05 g of sodium hydroxide are separately dissolved at 70° C. in 100 ml of hot water to be added to the dispersion of iron oxide red. A solution of 2.11 g of aluminium chloride in 50 ml of water is added gradually to the mixture under stirring, and stirring is continued for 30 minutes. The precipitate is recovered by filtration, washed with water and dried, thus resulting in iron oxide red with exceedingly superior oil dispersability, improved chroma and brightness and gloss.

reactant | sodium hydroxide | 1.05 g | [OH-].[Na+]
reactant | aluminium chloride | 2.11 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
catalyst | iron oxide red | 40 g | [O-2].[O-2].[O-2].[Fe+3].[Fe+3]
solvent | water | 1000 ml | O | H2O
product | AlCl3.6H2O | [Al](Cl)(Cl)Cl.O.O.O.O.O.O | InChI=1S/Al.3ClH.6H2O/h;3*1H;6*1H2/q+3;;;;;;;;;/p-3
